US05132475
In a 10 mL round-bottom flask, a mixture of 1.46 g dimethyl methylmalonate (10 mmol), 1.69 g tetrachloromethane (11 mmol), and 63 mg tetra-n-butylammonium fluoride (0.2 mmol) was mixed by a magnetic stirrer for 15 min at 24° C. Gas chromatographic analysis of the product mixture showed that the solution contained 1.14 g of dimethyl α-chloro-α-methylmalonate (63% yield).

reactant | dimethyl methylmalonate | 10 mmol, 1.46 g | CC(C(=O)OC)C(=O)OC | C6H10O4
reactant | tetrachloromethane | 11 mmol, 1.69 g | ClC(Cl)(Cl)Cl | CCl4
catalyst | tetra-n-butylammonium fluoride | 0.2 mmol, 63 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | dimethyl α-chloro-α-methylmalonate | 1.14 g, 63% yield | ClC(C(=O)OC)(C(=O)OC)C | C6H9ClO4
